US07635700B2
To a stirred mixture of 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.53 g, 1.6 mmol) in acetonitrile (10 mL), was added cyclopropane carboxylic acid chloride (0.16 mL, 1.7 mmol) and N,N-diisopropyl ethylamine (0.59 mL, 3.6 mmol). The mixture was stirred at room temp for 15 minutes. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give cyclopropanecarboxylic acid [3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-amide as an off-white solid (310 mg, 54% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, gradient to 95/5 in 5 min, kept for 5 min, 5.50 min (98.6%); mp, decomposed at 298° C.; 1HNMR (DMSO-d6) 0.67-0.70 (m, 4H, cyclo-CH2CH2), 1.65-1.73 (m, 1H, cyclo-CH), 2.11-2.20 (m, 1H, CHH), 2.57-2.89 (m, 6H, CHCH2, CH3), 4.77-4.87 (m, 2H, CH2NH), 5.23 (dd, J=6, 12 Hz, 1H, CH), 7.31-7.78 (m, 3H, Ar), 8.44 (t, J=6 Hz, 1H, CH2NH), 11.02 (s, 1H, NH); 13C NMR (DMSO-d6) δ6.28, 13.57, 20.76, 23.28, 30.58, 41.53, 56.47, 117.65, 124.50, 125.44, 133.89, 141.14, 148.44, 154.77, 160.94, 169.53, 172.60, 172.73. LCMS MH=369; Anal Calcd For C19H20N4O4+0.1H2O: C, 61.65; H, 5.50; N, 15.13. Found: C, 61.48; H, 5.47; N, 14.97.

reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.6 mmol, 0.53 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
reactant | cyclopropane carboxylic acid chloride | 1.7 mmol, 0.16 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | N,N-diisopropyl ethylamine | 3.6 mmol, 0.59 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | cyclopropanecarboxylic acid [3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-amide | 310 mg, 54% yield | O=C1NC(CCC1N1C(=NC2=CC=CC(=C2C1=O)CNC(=O)C1CC1)C)=O | C19H20N4O4
